US07456194B2
A6.1d: Benzyl 2-(3-bromophenyl)propan-2-ylcarbamate
To solution of A6.1c (11 g, 0.045 mol) in dichloromethane (110 ml) was added triethylamine (5.85 g, 0.057 mol) and cooled to 0° C. under N2. Ethylchloroformate (5.65 g, 0.05 mol) was added drop wise and stirred at 0° C. for 1 h. Sodium azide (3.24 g, 0.049 mol) was added and the mixture was stirred at RT over night. Reaction mixture was filtered to remove triethylamine-hydrochloride salt. The organic layer was concentrated to provide 1-azido-2-(3-bromophenyl)-2-methylpropan-1-one which was dissolved in toluene (60 mL) and heated to 100° C. for 30 min. The toluene was removed under vacuum to provide 1-bromo-3-(2-isocyanatopropan-2-yl)benzene. A mixture of 1-bromo-3-(2-isocyanatopropan-2-yl)benzene, pyridine (30 ml) and benzyl alcohol (12.2 g, 0.113 mol) was heated to 100° C. for 2 h under nitrogen. The reaction mixture was cooled to RT, quenched with 1.5 N HCl and extracted with ethyl acetate (3×50 ml). The combined organic layer was washed with water, brine, dried over anhydrous sodium sulfate and concentrated. Product was purified by column chromatography to give 7 g (45%) of A6.1d. 1H NMR (300 MHz, CDCl3) 1.65 (s, 6H), 5.03 (s, 2H), 5.1 (bs, 1H), 7.2 (dd, 1H), 7.35 (m, 6H), 7.54 (s, 1H). LCMS (M−H)+=350.

reactant | 1-bromo-3-(2-isocyanatopropan-2-yl)benzene | BrC1=CC(=CC=C1)C(C)(C)N=C=O | C10H10BrNO
reactant | benzyl alcohol | 0.113 mol, 12.2 g | C(C1=CC=CC=C1)O | C7H8O
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
product | Benzyl 2-(3-bromophenyl)propan-2-ylcarbamate | BrC=1C=C(C=CC1)C(C)(C)NC(OCC1=CC=CC=C1)=O | C17H18BrNO2
